US07553863B2
In the first step of the present synthesis of 4-MP, propionaldehyde is reacted with triethyl orthoformate in the presence of ethanol and ammonium nitrate to produce 1,1-diethoxypropane. In the second step, the 1,1-diethoxypropane produced in the first step is reacted neat (without a solvent) with a catalyst, which comprises an acid and an amine, to produce 1-ethoxy-1-propene (ethyl-1-propenyl ether). In the third step, this material is purified by washing and drying, without distillation. In the fourth step, the 1-ethoxy-1-propene from the third step is reacted with triethyl orthoformate in the presence of boron trifluoride-diethyl etherate to produce 1,1,3,3-tetraethoxy-2-methyl propane (“TEMP”). In the fifth step, the TEMP from the third step is reacted with hydrazine or a hydrazonium salt or hydrazine hydrate at elevated temperatures to produce 4-methylpyrazole.

reactant | 4-MP | CC1=CNN=C1 | C4H6N2
reactant | propionaldehyde | C(CC)=O | C3H6O
reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
reactant | ammonium nitrate | [N+](=O)([O-])[O-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 1,1-diethoxypropane | C(C)OC(CC)OCC | C7H16O2
